US04622318
To a solution of 3-[(Z)-2-(tritylthio)vinyl]pyridine (690 mg) in a mixture of tetrahydrofuran (3 ml), methanol (5 ml) and pyridine (0.147 ml) was dropwise added a solution of silver nitrate (371 mg) in methanol (20 ml) at ambient temperature. The reaction mixture was stirred at 40° C. in dark. The precipitate was collected, washed with methanol and dried over phosphorus pentoxide to give [(Z)-2-(3-pyridyl)vinylthio]silver (487 mg).

reactant | 3-[(Z)-2-(tritylthio)vinyl]pyridine | 690 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)S\C=C/C=1C=NC=CC1 | C26H21NS
reactant | pyridine | 0.147 ml | N1=CC=CC=C1 | C5H5N
reactant | silver nitrate | 371 mg | [N+](=O)([O-])[O-].[Ag+]
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 5 ml | CO | CH4O
product | [(Z)-2-(3-pyridyl)vinylthio]silver | 487 mg | N1=CC(=CC=C1)\C=C/S[Ag] | InChI=1S/C7H7NS.Ag/c9-5-3-7-2-1-4-8-6-7;/h1-6,9H;/q;+1/p-1/b5-3-;
